US06323153B1
A 10% solution of diammonium glutarate was prepared by neutralizing 50 g. of glutaric acid in water with aqueous ammonium hydroxide and bringing the final solution to 500 ml. with water. This was sprayed on wild ivy and quakegrass. Both were dead within 36 hours.

reactant | glutaric acid | C(CCCC(=O)O)(=O)O | C5H8O4
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | diammonium glutarate | C(CCCC(=O)[O-])(=O)[O-].[NH4+].[NH4+] | InChI=1S/C5H8O4.2H3N/c6-4(7)2-1-3-5(8)9;;/h1-3H2,(H,6,7)(H,8,9);2*1H3
